US04431815
A stirred mixture of chloroacetaldehyde diethyl acetal (50 g, 0.328 mol), and benzylamine (150.0 g, 1.4 mol) was heated at 130° for 3 h. The mixture was then left at ambient temperature overnight. Next day, water (150 ml) was added, and the resulting solution was basified with sodium hydroxide solution (25 ml, 10 M). The mixture was then extracted with ether (2×100 ml), and the extracts were combined and dried over magnesium sulphate. Evaporation of the ether under reduced pressure afforded a brown oil which was distilled to afford N-benzylaminoacetaldehyde diethyl acetal, b.p. 148°-150°/20 mmHg.

reactant | chloroacetaldehyde diethyl acetal | 0.328 mol, 50 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | benzylamine | 1.4 mol, 150.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 10 M, 25 ml | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | N-benzylaminoacetaldehyde diethyl acetal | C(C)OC(CNCC1=CC=CC=C1)OCC | C13H21NO2
